US07683084B2
Prop-2-ynyl-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine
2,2,3,3-Tetrafluoro-6-aminobenzodioxane (6.694 g, 30.0 mmol) and Aldrich basic alumina (activated, Brockmann 1, 150 mesh, CAS #1344-28-1) (51 g) were mixed in fluorobenzene (100 mL) and then treated with 80% propargyl bromide in toluene (2.56 mL, 23.0 mmol). The resulting mixture was thoroughly stirred and heated at 50° C. for 17 hours. The mixture was cooled to ambient temperature and filtered. The alumina was rinsed thoroughly with dichloromethane (150 mL), the filtrate was reduced in volume under reduced pressure, washed with concentrated aqueous NH4OH (5 mL), dried (Na2SO4), concentrated and chromatographed on silica eluting with 0-10% EtOAc/hexanes to provide the titled compound. 1H NMR (CDCl3) δ ppm 2.24 (t, 1H), 3.92 (m, 2H), 3.96 (m, 1H), 6.43 (d, 1H), 6.45 (dd, 1H), 6.96 (d, 1H); MS (DCI) 262 (M+H).

reactant | 2,2,3,3-Tetrafluoro-6-aminobenzodioxane | 30.0 mmol, 6.694 g | FC1(C(OC2=C(O1)C=CC(=C2)N)(F)F)F | C8H5F4NO2
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 23.0 mmol, 2.56 mL | C1(=CC=CC=C1)C | C7H8
solvent | fluorobenzene | 100 mL | FC1=CC=CC=C1 | C6H5F
product | Prop-2-ynyl-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine | C(C#C)NC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C11H7F4NO2
